US08013156B2
[1-(3-Chloro-pyrazin-2-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester.
To a round bottom flask equipped with a magnetic stir bar was added 2,3-Dichloro-pyrazine (3 g, 20.2 mmol) and dry DMF (50 mL). 3-Boc-aminopyrrolidine (8.2 g, 44.5 mmol) was dissolved in dry DMF (50 mL) and added to the round bottom flask. The reaction mixture was allowed to continue to stir overnight at 100° C. LC/MS analysis indicated the desired product as the main component. The reaction mixture was cooled to room temperature and poured on ice. The mixture was extracted with EtOAc and the EtOAc layer was washed with water and brine and dried on sodium sulfate. After removal of solvent in vacuo the desired product [1-(3-Chloro-pyrazin-2-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (6.8 g, 99% yield) was obtained.

reactant | 2,3-Dichloro-pyrazine | 20.2 mmol, 3 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | 3-Boc-aminopyrrolidine | 44.5 mmol, 8.2 g | C(=O)(OC(C)(C)C)C1CN(CC1)N | C9H18N2O2
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | [1-(3-Chloro-pyrazin-2-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CN(CC1)C1=NC=CN=C1Cl)=O | C13H19ClN4O2
